US05236952
4.4 g of 2-fluoro-3,4-dimethoxybenzaldehyde and 1.83 g of hydroxylamine hydrochloride are heated under reflux for 5 hours together with 30 ml of ethanol. The reaction mixture is subsequently evaporated and the residue, dried in a high vacuum at 23°, is introduced into 40 ml of phosphorus oxychloride. After stirring at 23° for 2.5 hours the reaction mixture is evaporated, the residue is treated with ice-water, the precipitate which thereby forms is filtered off, washed with water, taken up in methylene chloride, the methylene chloride solution is dried over sodium sulfate and evaporated. By recrystallization of the residue from methylene chloride/hexane there is obtained 2-fluoro-3,4-dimethoxybenzonitrile of m.p. 64°-65°.

reactant | 2-fluoro-3,4-dimethoxybenzaldehyde | 4.4 g | FC1=C(C=O)C=CC(=C1OC)OC | C9H9FO3
reactant | hydroxylamine hydrochloride | 1.83 g | Cl.NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-fluoro-3,4-dimethoxybenzonitrile | FC1=C(C#N)C=CC(=C1OC)OC | C9H8FNO2
